* source ADC
E_U1         N00165 0 VALUE {LIMIT(V(0,N01900)*1E6,-15V,+15V)}
C_C1         N01900 N00165  2n IC=0 TC=0,0 
R_R1         N01900 VIN  10k TC=0,0 
E_U2         N02733 0 VALUE {LIMIT(V(VREF,N00165)*1E6,0V,+5V)}
V_Vref         VREF 0 0
V_V1         N03699 0  
+PULSE 5 0 0 0 0 0.5m 1m
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N10767 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +250n 0
+  +250n 1
+ ENDREPEAT
U_DSTM4         STIM(1,0) $G_DPWR $G_DGND N08706 IO_STM STIMULUS=RST
X_U7         N09684 N08706 Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 M_UN0001 M_UN0002 M_UN0003
+  M_UN0004 $G_CD4000_VDD $G_CD4000_VSS CD4040B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8         N02733 N10767 N09684  $G_DPWR $G_DGND AND2
V_V2         VIN 0 5
